US05142056
A. Methyl 2-Benzyl-3-tert-butylmercaptopropionate
To sodium (3.05 g, 133 mmol) in methanol (135 ml) was added tert-butylmercaptan (17.0 ml, 151 mmol). After 20 min methyl a-benzylacrylate (17.05 g, 96.8 mmol) in methanol (100 ml) was added and after 1 h at room temperature the mixture was heated at reflux for 17 h. After cooling, the mixture was acidified with 2M HCl (70 ml), concentrated, taken up in ether, washed with water and brine, then dried over MgSO4 and evaporated to 23.59 g (92%) of an oil. 1H NMR (CDCl3) δ 7.15-7.35 (m,5H), 3.63 (s,3H), 2.60-3.05 (m,5H), 1.28 (s,9H).

reactant | sodium | 133 mmol, 3.05 g | [Na] | Na
reactant | tert-butylmercaptan | 151 mmol, 17.0 ml | C(C)(C)(C)S | C4H10S
reactant | methyl a-benzylacrylate | 96.8 mmol, 17.05 g | C(C1=CC=CC=C1)C(C(=O)OC)=C | C11H12O2
reactant | HCl | 2M, 70 ml | Cl | ClH
solvent | methanol | 135 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | Methyl 2-Benzyl-3-tert-butylmercaptopropionate | C(C1=CC=CC=C1)C(C(=O)OC)CSC(C)(C)C | C15H22O2S
